US07632838B2
Coupling of 1-(3-(trifluoromethyl)pyridin-2-yl)piperazine (271 mg, 1.17 mmol) with 2,2,3,3-tetramethylcyclopropanecarboxylic acid (100 mg, 0.70 mmol) was carried out according to a similar procedure described for example 1A using N,N-dimethylformamide (1 mL) as solvent and benzotriazole-1 yl-oxy-tris-(dimethylamino)-phosphonium hexafluorophosphate (700 mg, 1.56 mmol) as coupling agent. 1-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-4-[3-(trifluoromethyl)pyridin-2-yl]piperazine was obtained in 67% yield (166 mg) as colorless oil.

reactant | 1-(3-(trifluoromethyl)pyridin-2-yl)piperazine | 1.17 mmol, 271 mg | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | 2,2,3,3-tetramethylcyclopropanecarboxylic acid | 0.70 mmol, 100 mg | CC1(C(C1(C)C)C(=O)O)C | C8H14O2
reactant | benzotriazole-1 yl-oxy-tris-(dimethylamino)-phosphonium hexafluorophosphate | 1.56 mmol, 700 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-4-[3-(trifluoromethyl)pyridin-2-yl]piperazine | 67% yield | CC1(C(C1(C)C)C(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C | C18H24F3N3O
